US08420655B2
5-{1-tert-Butyl-2-[2-(4-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
A solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (180 mg, 0.70 mmol) and 2-(4-methyl-pyrazol-1-yl)-benzaldehyde (130 mg, 0.70 mmol) in acetic acid (5 mL) is warmed to 100° C. for 16 hours then cooled to room temperature and neutralized with NaHCO3 (sat.). The product is extracted into EtOAc (3×) and the combined organics are dried (MgSO4), filtered and concentrated. Purification via flash chromatography (12 g silica gel, 0-5% MeOH/CH2Cl2) affords the title compound (105 mg, 35%). LCMS (ESMS): m/z 424.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.70 mmol, 180 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-(4-methyl-pyrazol-1-yl)-benzaldehyde | 0.70 mmol, 130 mg | CC=1C=NN(C1)C1=C(C=O)C=CC=C1 | C11H10N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-{1-tert-Butyl-2-[2-(4-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 105 mg, 35% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)N2N=CC(=C2)C | C25H25N7
